US06187781B1
4-(4-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)-2-chloro-6-methylpyrimidine (466 mg), 408 mg of 2-bromo-4-isopropylaniline hydrochloride and 232 mg of diisopropylethylamine were heated in 5 ml of ethylene glycol under reflux for 1 hour. The reaction solution was poured into a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The desiccant was filtered off, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=6/1) to give 458 mg of 2-[N-(2-bromo-4-isopropylphenyl)amino]-4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-6-methylpyrimidine as an amorphous substance.

reactant | 4-(4-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)-2-chloro-6-methylpyrimidine | 466 mg | C1(=CC=CC=C1)C=1CCN(CC1)C1=NC(=NC(=C1)C)Cl | C16H16ClN3
reactant | 2-bromo-4-isopropylaniline hydrochloride | 408 mg | Cl.BrC1=C(N)C=CC(=C1)C(C)C
reactant | diisopropylethylamine | 232 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 2-[N-(2-bromo-4-isopropylphenyl)amino]-4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-6-methylpyrimidine | 458 mg | BrC1=C(C=CC(=C1)C(C)C)NC1=NC(=CC(=N1)N1CCC(=CC1)C1=CC=CC=C1)C | C25H27BrN4
